US04614804
120 parts of phenol, 6.1 parts (0.1 mole) of boric acid and 70 parts of toluene are refluxed, while stirring, the water of reaction formed thereby being removed from the system. The toluene is then distilled off, the mixture is cooled to 110° C. and 25.4 parts (0.05 mole) of 1-palmitylamino-8-amino-4,5-dihydroxyanthraquinone (prepared by reacting 1-amino-8-nitro-4,5-dihydroxyanthraquinone with palmityl chloride in nitrobenzene and then reducing the product with hydrazine hydrate) are added. Ammonia is then passed in at this temperature until no further starting material can be detected in the thin-layer chromatogram (duration: 3 hours). The reaction mixture is cooled to 90° C. and 240 parts of methanol are added. After cooling to room temperature, the dye precipitated is filtered off with suction and the material on the filter is washed with methanol and water and dried. 20 parts of 1,4-diamino-5-hydroxy-8-palmitylaminoanthraquinone of melting point 174° C. are obtained.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | boric acid | 0.1 mole | B(O)(O)O | BH3O3
reactant | 1-palmitylamino-8-amino-4,5-dihydroxyanthraquinone | 0.05 mole | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)N)O)=O)O | C30H42N2O4
reactant | 1-amino-8-nitro-4,5-dihydroxyanthraquinone | NC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)[N+](=O)[O-])O)=O)O | C14H8N2O6
reactant | palmityl chloride | C(CCCCCCCCCCCCCCC)Cl | C16H33Cl
reactant | hydrazine hydrate | O.NN
reactant | Ammonia | N | H3N
solvent | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,4-diamino-5-hydroxy-8-palmitylaminoanthraquinone | NC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)NCCCCCCCCCCCCCCCC)O)=O)N | C30H43N3O3
